US08431563B2
To a 100-mL round-bottomed flask was added ethyl N-(tert-butoxycarbonyl)glycyl-3-(6-methoxy-2-pyridinyl)alaninate (1.28 g, 3.36 mmol) and trifluoroacetic acid (5 mL, 67.3 mmol) in DCM (5 mL). The reaction mixture was stirred at room temperature for 3 h. The solvent was removed in vacuo to give the crude ethyl glycyl-3-(6-methoxy-2-pyridinyl)alaninate as a colorless viscous oil, which was used without purification.

reactant | ethyl N-(tert-butoxycarbonyl)glycyl-3-(6-methoxy-2-pyridinyl)alaninate | 3.36 mmol, 1.28 g | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H](CC1=NC(=CC=C1)OC)C(=O)OCC | C18H27N3O6
reactant | trifluoroacetic acid | 67.3 mmol, 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | ethyl glycyl-3-(6-methoxy-2-pyridinyl)alaninate | NCC(=O)N[C@@H](CC1=NC(=CC=C1)OC)C(=O)OCC | C13H19N3O4
